US07345042B2
1-[1-(4-Bromo-phenyl)-ethyl]-2-methyl-piperazine (0.104 g) from preparation A step 4 was treated with 0.075 g 1-tert-butoxycarbonyl-2-methyl-4-oxo-piperidine from the previous step as described in preparation A step 5 to afford 1-tert-butoxycarbonyl-2-methyl-4-{4-[1 (S)-(4-Bromophenyl)-ethyl]-3(R)-methylpiperazin-1-yl}-piperidine.

reactant | 1-[1-(4-Bromo-phenyl)-ethyl]-2-methyl-piperazine | 0.104 g | BrC1=CC=C(C=C1)C(C)N1C(CNCC1)C | C13H19BrN2
reactant | 1-tert-butoxycarbonyl-2-methyl-4-oxo-piperidine | 0.075 g | C(C)(C)(C)OC(=O)N1C(CC(CC1)=O)C | C11H19NO3
product | 1-tert-butoxycarbonyl-2-methyl-4-{4-[1 (S)-(4-Bromophenyl)-ethyl]-3(R)-methylpiperazin-1-yl}-piperidine | C(C)(C)(C)OC(=O)N1C(CC(CC1)N1C[C@H](N(CC1)[C@@H](C)C1=CC=C(C=C1)Br)C)C | C24H38BrN3O2
